US04983596
To a solution of allyl (4R,5S,6S)-6-[(1R)-1-allyloxycarbonyloxyethyl]-3-[(2S,4S)-1-allyloxycarbonyl-2-(2-fluoroethyl)oxymethylpyrrolidin-4-yl]thio-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (372 mg) in a mixture of tetrahydrofuran (3.2 ml), ethanol (1.6 ml) and water (800 μl) were added triphenylphosphine (17 mg), morpholine (216 μl) and tetrakis(triphenylphosphine)palladium(0) (72 mg) at room temperature for 3 hours under nitrogen atmosphere. The reaction mixture was poured into a mixture of ethyl acetate (40 ml) and water (20 ml). The aqueous layer was separated and concentrated in vacuo to give a residual solution, which was chromatographed on "Diaion HP-20" eluting in turn with water and 10% aqueous acetone. The fractions containing the desired compound were collected and lyophilized to give (4R,5S,6S)-3-[(2S,4S)-2-(2-fluoroethyl)oxymethylpyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]-hept-2-ene-2-carboxylic acid (20 mg).

reactant | allyl (4R,5S,6S)-6-[(1R)-1-allyloxycarbonyloxyethyl]-3-[(2S,4S)-1-allyloxycarbonyl-2-(2-fluoroethyl)oxymethylpyrrolidin-4-yl]thio-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 372 mg | C(C=C)OC(=O)O[C@H](C)[C@@H]1[C@H]2[C@H](C(=C(N2C1=O)C(=O)OCC=C)S[C@H]1C[C@H](N(C1)C(=O)OCC=C)COCCF)C | C28H37FN2O9S
reactant | ethanol | 1.6 ml | C(C)O | C2H6O
reactant | triphenylphosphine | 17 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | morpholine | 216 μl | N1CCOCC1 | C4H9NO
solvent | tetrahydrofuran | 3.2 ml | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 72 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 20 ml | O | H2O
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 800 μl | O | H2O
product | (4R,5S,6S)-3-[(2S,4S)-2-(2-fluoroethyl)oxymethylpyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]-hept-2-ene-2-carboxylic acid | 20 mg | FCCOC[C@H]1NC[C@H](C1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)O | C17H25FN2O5S
